US07498346B2
(R)-3-[4-(4-Methoxy-phenylamino)-piperidin-1-yl]-butyronitrile (0.53 g, 1.94 mmol) was dissolved in NH3 saturated MeOH (15 mL), treated with Raney nickel (excess), and placed under 45 psi H2 on a Parr shaker for 8 h. In a standard work-up the mixture was diluted with MeOH and filtered through celite. The cake was washed with MeOH and the combined filtrate was concentrated to give crude (R)-[1-(3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-amine as a pale yellow oil (0.54 g, quant.). TLC analysis and 1H NMR confirmed the crude product to be pure with no further purification required. 1H NMR (CDCl3) δ 0.98 (d, 3H, J=6.0 Hz), 1.36 (m, 5H), 1.71 (m, 2H), 2.03 (d, 2H, J=12.0 Hz), 2.23 (br t, 1H), 2.42 (br t, 1H), 2.49-2.71 (m, 4H), 3.17 (m, 2H), 3.76 (s, 3H), 6.57 (d, 2H, J=9.0 Hz), 6.75 (d, 2H, J=9.0 Hz).

reactant | (R)-3-[4-(4-Methoxy-phenylamino)-piperidin-1-yl]-butyronitrile | 1.94 mmol, 0.53 g | COC1=CC=C(C=C1)NC1CCN(CC1)[C@@H](CC#N)C | C16H23N3O
solvent | NH3 | 15 mL | N | H3N
catalyst | Raney nickel | [Ni] | Ni
solvent | MeOH | CO | CH4O
product | (R)-[1-(3-amino-1-methyl-propyl)-piperidin-4-yl]-(4-methoxy-phenyl)-amine | NCC[C@@H](C)N1CCC(CC1)NC1=CC=C(C=C1)OC | C16H27N3O
